US06515129B1
N-(2,6-diethylphenyl)-homophthalimide (compound No.A-14)
162 mg (1.0 mmol) of homophthalic anhydride and 149 mg (1.0 mmol) of 2,6-diethylaniline were charged in an egg-plant type flask of 50 ml, followed by stirring under heating at a temperature of 180° C. for 2 hours. After cooled, the reactant was dissolved in chloroform, purified by silica gel column chromatography (eluent;

reactant | homophthalic anhydride | 1.0 mmol, 162 mg | C1(CC=2C(C(=O)O1)=CC=CC2)=O | C9H6O3
reactant | 2,6-diethylaniline | 1.0 mmol, 149 mg | C(C)C1=C(N)C(=CC=C1)CC | C10H15N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(2,6-diethylphenyl)-homophthalimide | C(C)C1=C(C(=CC=C1)CC)N1C(CC=2C(C1=O)=CC=CC2)=O | C19H19NO2
